US04147780
The procedure described in Example 1C was repeated using 1-benzhydrylaminocyclopentanephosphonous acid as starting material instead of DL-1-benzhydrylamino-2-methylpropanephosphonous acid to give 1-amino-cyclopentanephosphonous acid of melting point 223°-225°.

reactant | 1-benzhydrylaminocyclopentanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1(CCCC1)P(O)O | C18H22NO2P
reactant | 1-benzhydrylamino-2-methylpropanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(C)C)P(O)O | C17H22NO2P
product | 1-amino-cyclopentanephosphonous acid | NC1(CCCC1)P(O)O | C5H12NO2P
